US08258316B2
To a solution of 1-[5-(trifluoromethyl)pyrid-2-yl]piperazine (554 mgs, 2.4 mmol) in CH3CN (5 mL) and K2CO3 (1.1 g, 8.0 mmol) was added benzyl 2-bromo-2-methylpropanoate (512 mgs, 2.0 mmol). The reaction mixture was heated to 80° C. After 14 hours, the reaction mixture was cooled to room temperature, diluted with EtOAc, stirred and filtered. The filtrate was then concentrated and purified by flash chromatography on silica gel with elution using 3% MeOH/CH2Cl2 to give Benzyl 2-methyl-2-(4-(5-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)propanoate.

reactant | 1-[5-(trifluoromethyl)pyrid-2-yl]piperazine | 2.4 mmol, 554 mgs | FC(C=1C=CC(=NC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | K2CO3 | 8.0 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl 2-bromo-2-methylpropanoate | 2.0 mmol, 512 mgs | BrC(C(=O)OCC1=CC=CC=C1)(C)C | C11H13BrO2
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Benzyl 2-methyl-2-(4-(5-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)propanoate | CC(C(=O)OCC1=CC=CC=C1)(C)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C21H24F3N3O2
